* Created by KLayout
*** My special header ***

* cell tr_1um_OpenSUSI03
* pin P1,VSS
* pin P10
* pin P11
* pin P12
* pin P13
* pin P14
* pin P15
* pin P2
* pin P3
* pin P4
* pin P5
* pin P6
* pin P7
* pin P9
* pin VDD
.SUBCKT tr_1um_OpenSUSI03 P1|VSS P10 P11 P12 P13 P14 P15 P2 P3 P4 P5 P6 P7 P9
+ VDD
* cell instance $1 r0 *1 0,0
X$1 P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1|VSS P6 P9 P12 P10 P1|VSS OSS_FRAME
* cell instance $2 r0 *1 48.8,180.7
X$2 P13 P11 P15 P4 P14 P2 P3 P1|VSS AM_Radio
.ENDS tr_1um_OpenSUSI03

* cell AM_Radio
* pin RFINP
* pin RFINN
* pin RFOUT
* pin VB
* pin VDD
* pin DETOUT
* pin VREF
* pin VSS
.SUBCKT AM_Radio RFINP RFINN RFOUT VB VDD DETOUT VREF VSS
* cell instance $1 r0 *1 43.2,-4.1
X$1 \$78 \$77 \$79 \$14 \$16 VDD VB \$134 VSS current_mirror
* cell instance $2 r0 *1 340,-4.1
X$2 \$14 \$16 RFINP RFINN \$12 RFOUT \$141 \$143 VDD \$13 \$72 \$128 VSS \$81
+ \$82 \$80 \$83 cascode_opamp
* cell instance $11 m0 *1 340,-6.7
X$11 \$14 \$16 \$199 VREF DETOUT RFOUT \$210 \$197 \$202 \$201 \$195 \$208 VDD
+ VSS \$235 \$213 \$226 \$228 \$212 ideal_diode
.ENDS AM_Radio

* cell OSS_FRAME
* pin P13
* pin P11
* pin P4
* pin P15
* pin P14
* pin P5
* pin VDD
* pin P2
* pin P3
* pin P7
* pin P1
* pin P6
* pin P9
* pin P12
* pin P10
* pin VSS
.SUBCKT OSS_FRAME P13 P11 P4 P15 P14 P5 VDD P2 P3 P7 P1 P6 P9 P12 P10 VSS
* cell instance $1 r90 *1 1040,200
X$1 P13 VDD VSS OSS_ESD_5V_ANA
* cell instance $2 r90 *1 1040,-600
X$2 P11 VDD VSS OSS_ESD_5V_ANA
* cell instance $3 m45 *1 -1040,200
X$3 P4 VDD VSS OSS_ESD_5V_ANA
* cell instance $4 r180 *1 600,1040
X$4 P15 VDD VSS OSS_ESD_5V_ANA
* cell instance $5 m135 *1 1040,600
X$5 P14 VDD VSS OSS_ESD_5V_ANA
* cell instance $6 r270 *1 -1040,-200
X$6 P5 VDD VSS OSS_ESD_5V_ANA
* cell instance $10 m45 *1 -1040,-600
X$10 P6 VDD VSS OSS_ESD_5V_ANA
* cell instance $11 m135 *1 1040,-200
X$11 P12 VDD VSS OSS_ESD_5V_ANA
* cell instance $12 m90 *1 600,-1040
X$12 P10 VDD VSS OSS_ESD_5V_ANA
* cell instance $14 m0 *1 -600,1040
X$14 P2 VDD VSS OSS_ESD_5V_ANA
* cell instance $15 r270 *1 -1040,600
X$15 P3 VDD VSS OSS_ESD_5V_ANA
* cell instance $16 r180 *1 -200,1040
X$16 P1 VDD VSS OSS_ESD_5V_ANA
* cell instance $17 m0 *1 200,1040
X$17 VDD VSS OSS_ESD_5V_VDD
* cell instance $18 r0 *1 -600,-1040
X$18 P7 VDD VSS OSS_ESD_5V_ANA
* cell instance $19 r0 *1 200,-1040
X$19 P9 VDD VSS OSS_ESD_5V_ANA
* cell instance $20 m90 *1 -200,-1040
X$20 VDD VSS OSS_ESD_5V_VSS
.ENDS OSS_FRAME

* cell current_mirror
* pin iB
* pin 
* pin 
* pin VB1
* pin VB2
* pin VDD
* pin 
* pin 
* pin VSS
.SUBCKT current_mirror iB \$8 \$9 VB1 VB2 VDD \$120 \$123 VSS
* device instance $1 r0 *1 -770.1,-238.7 PMOS
XM$1 VDD VDD iB VDD PMOS L=8u W=80u AS=172p AD=172p PS=137.2u PD=137.2u
* device instance $2 r0 *1 -759.1,-238.7 PMOS
XM$2 iB \$8 \$120 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $3 r0 *1 -748.1,-238.7 PMOS
XM$3 \$120 \$120 VDD VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $4 r0 *1 -737.1,-238.7 PMOS
XM$4 VDD \$120 \$123 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $5 r0 *1 -726.1,-238.7 PMOS
XM$5 \$123 \$8 VB2 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $53 r0 *1 -770.1,-556.8 NMOS
XM$53 VSS VSS iB VSS NMOS L=8u W=28u AS=60.2p AD=60.2p PS=59.2u PD=59.2u
* device instance $54 r0 *1 -759.1,-556.8 NMOS
XM$54 iB \$8 \$9 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $55 r0 *1 -748.1,-556.8 NMOS
XM$55 \$9 \$9 VSS VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $56 r0 *1 -737.1,-556.8 NMOS
XM$56 VSS VB1 VB1 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $57 r0 *1 -726.1,-556.8 NMOS
XM$57 VB1 VB2 VB2 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
.ENDS current_mirror

* cell ideal_diode
* pin VB1
* pin VB2
* pin 
* pin VREF
* pin VOUT
* pin VIN
* pin 
* pin 
* pin 
* pin 
* pin 
* pin 
* pin VDD
* pin VSS
* pin 
* pin 
* pin 
* pin 
* pin 
.SUBCKT ideal_diode VB1 VB2 \$12 VREF VOUT VIN \$52 \$56 \$74 \$94 \$109 \$118
+ VDD VSS \$I669 \$I668 \$I667 \$I666 \$I665
* cell instance $1 r180 *1 -643.9,-633.2
X$1 \$I665 \$56 \$52 \$74 \$118 VB2 \$I668 \$I667 \$I666 \$12 VB1 VIN VOUT VB2
+ \$I669 VB1 \$77 VSS OPAMP_NMOS_single$2
* cell instance $2 r0 *1 0,0
X$2 \$94 VDD \$56 \$109 VB2 \$77 \$52 \$12 \$74 OPAMP_PMOS_single$2
* cell instance $36 m90 *1 -879.7,-473.1
X$36 VOUT VSS \$12 IDEAL_CAP$1
* cell instance $37 r0 *1 -864.6,-386.7
X$37 VOUT \$12 IDEAL_DP$1
* cell instance $38 r0 *1 -864.4,-444.7
X$38 \$12 VREF IDEAL_DP$1
* cell instance $71 r0 *1 -982.3,-374.7
X$71 VDD VREF VOUT IDEAL_RR$1
* device instance $1 r90 *1 -32.7,-61.4 F_CSIO
XC$1 \$118 \$12 VSS F_CSIO C=5.4e-13 A=900p P=120u X=30 Y=30 m=1
.ENDS ideal_diode

* cell cascode_opamp
* pin VB1
* pin VB2
* pin VIN_P
* pin VIN_N
* pin 
* pin VOUT
* pin 
* pin 
* pin VDD
* pin 
* pin 
* pin 
* pin VSS
* pin 
* pin 
* pin 
* pin 
.SUBCKT cascode_opamp VB1 VB2 VIN_P VIN_N \$72 VOUT \$75 \$83 VDD \$87 \$100
+ \$115 VSS \$I613 \$I612 \$I611 \$I610
* cell instance $1 r180 *1 -643.9,-633.2
X$1 \$I611 \$75 \$87 \$100 \$72 VB2 \$I610 \$I612 \$I613 VOUT VB1 VIN_P VIN_N
+ VB2 VB1 \$86 VSS OPAMP_NMOS_single$1
* cell instance $2 r0 *1 0,0
X$2 \$115 VDD \$75 \$83 VB2 \$86 \$87 VOUT \$100 OPAMP_PMOS_single$1
* device instance $1 r90 *1 -32.7,-61.4 F_CSIO
XC$1 \$72 VOUT VSS F_CSIO C=5.4e-13 A=900p P=120u X=30 Y=30 m=1
.ENDS cascode_opamp

* cell OSS_ESD_5V_VDD
* pin PAD,VDD
* pin VSS
.SUBCKT OSS_ESD_5V_VDD PAD|VDD VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VDD PAD|VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD|VDD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VDD

* cell OSS_ESD_5V_VSS
* pin VDD
* pin PAD,VSS
.SUBCKT OSS_ESD_5V_VSS VDD PAD|VSS
* cell instance $1 r90 *1 -130,0
X$1 PAD|VSS VDD OSS_PCH_ESD
* cell instance $2 r90 *1 130,0
X$2 PAD|VSS PAD|VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_VSS

* cell OSS_ESD_5V_ANA
* pin PAD
* pin VDD
* pin VSS
.SUBCKT OSS_ESD_5V_ANA PAD VDD VSS
* cell instance $2 r90 *1 -130,0
X$2 PAD VDD OSS_PCH_ESD
* cell instance $3 r90 *1 130,0
X$3 PAD VSS OSS_NCH_ESD
.ENDS OSS_ESD_5V_ANA

* cell IDEAL_DP$1
* pin 
* pin 
.SUBCKT IDEAL_DP$1 \$1 \$3
* device instance $1 r0 *1 13.8,14 DP
D$1 \$3 \$1 DP A=51.84p P=57.6u
.ENDS IDEAL_DP$1

* cell IDEAL_CAP$1
* pin 
* pin VSS
* pin 
.SUBCKT IDEAL_CAP$1 \$1 VSS \$I15
* device instance $1 r90 *1 32,32 F_CSIO
XC$1 \$I15 \$1 VSS F_CSIO C=5.4e-13 A=900p P=120u X=30 Y=30 m=1
.ENDS IDEAL_CAP$1

* cell IDEAL_RR$1
* pin 
* pin 
* pin 
.SUBCKT IDEAL_RR$1 \$1 \$4 \$I24
* device instance $1 r0 *1 51.6,18.5 F_RR
XR$1 \$I24 \$4 \$1 F_RR R=19.25 L=77u W=4u A=308p P=162u m=1
.ENDS IDEAL_RR$1

* cell OPAMP_NMOS_single$2
* pin 
* pin T_D,iB1
* pin OUT1
* pin 
* pin CCOUT
* pin 
* pin 
* pin 
* pin 
* pin VOUT
* pin 
* pin VIN_P
* pin VIN_N
* pin L_U_G,VB2
* pin 
* pin L_D_G,VB1
* pin 
* pin VSS
.SUBCKT OPAMP_NMOS_single$2 \$1 T_D|iB1 OUT1 \$6 CCOUT \$12 \$14 \$15 \$17 VOUT
+ \$66 VIN_P VIN_N L_U_G|VB2 \$105 L_D_G|VB1 \$168 VSS
* device instance $1 r0 *1 -973.8,-214.7 NMOS
XM$1 VSS VSS OUT1 VSS NMOS L=8u W=168u AS=361.2p AD=252p PS=269.2u PD=180u
* device instance $2 r0 *1 -962.8,-214.7 NMOS
XM$2 OUT1 \$6 CCOUT VSS NMOS L=8u W=168u AS=252p AD=252p PS=180u PD=180u
* device instance $5 r0 *1 -929.8,-214.7 NMOS
XM$5 VSS OUT1 VOUT VSS NMOS L=8u W=1680u AS=2520p AD=2520p PS=1800u PD=1800u
* device instance $25 r0 *1 -709.8,-214.7 NMOS
XM$25 VSS \$1 \$1 VSS NMOS L=8u W=168u AS=252p AD=252p PS=180u PD=180u
* device instance $26 r0 *1 -698.8,-214.7 NMOS
XM$26 \$1 \$6 \$6 VSS NMOS L=8u W=168u AS=252p AD=252p PS=180u PD=180u
* device instance $29 r0 *1 -665.8,-214.7 NMOS
XM$29 VSS \$66 \$17 VSS NMOS L=8u W=84u AS=126p AD=126p PS=90u PD=90u
* device instance $30 r0 *1 -654.8,-214.7 NMOS
XM$30 \$17 VIN_P \$15 VSS NMOS L=8u W=672u AS=1008p AD=1008p PS=750u PD=750u
* device instance $32 r0 *1 -632.8,-214.7 NMOS
XM$32 \$17 VIN_N \$14 VSS NMOS L=8u W=672u AS=1008p AD=1008p PS=750u PD=750u
* device instance $37 r0 *1 -577.8,-214.7 NMOS
XM$37 \$14 VSS VSS VSS NMOS L=8u W=84u AS=126p AD=235.2p PS=90u PD=179.2u
* device instance $38 r0 *1 -555.8,-232.2 NMOS
XM$38 VSS VSS \$168 VSS NMOS L=8u W=28u AS=60.2p AD=60.2p PS=59.2u PD=59.2u
* device instance $39 r0 *1 -544.8,-232.2 NMOS
XM$39 \$168 \$12 \$14 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $42 r0 *1 -511.8,-232.2 NMOS
XM$42 \$15 \$12 OUT1 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $64 r0 *1 -258.8,-214.7 NMOS
XM$64 VSS VSS \$15 VSS NMOS L=8u W=84u AS=235.2p AD=126p PS=179.2u PD=90u
* device instance $72 r0 *1 -170.8,-214.7 NMOS
XM$72 \$17 VSS VSS VSS NMOS L=8u W=84u AS=126p AD=235.2p PS=90u PD=179.2u
* device instance $73 r0 *1 -148.8,-232.2 NMOS
XM$73 VSS VSS T_D|iB1 VSS NMOS L=8u W=28u AS=60.2p AD=60.2p PS=59.2u PD=59.2u
* device instance $74 r0 *1 -137.8,-232.2 NMOS
XM$74 T_D|iB1 L_U_G|VB2 \$105 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u
+ PD=120u
* device instance $75 r0 *1 -126.8,-232.2 NMOS
XM$75 \$105 L_D_G|VB1 VSS VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $76 r0 *1 -115.8,-232.2 NMOS
XM$76 VSS \$66 \$66 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $77 r0 *1 -104.8,-232.2 NMOS
XM$77 \$66 \$12 \$12 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
.ENDS OPAMP_NMOS_single$2

* cell OPAMP_PMOS_single$2
* pin 
* pin VDD
* pin iB
* pin VB4
* pin VB2
* pin D_D
* pin OUT1
* pin VOUT
* pin D_D_OUT
.SUBCKT OPAMP_PMOS_single$2 \$3 VDD iB VB4 VB2 D_D OUT1 VOUT D_D_OUT
* device instance $1 r0 *1 -770.1,-238.7 PMOS
XM$1 VDD VDD iB VDD PMOS L=8u W=80u AS=172p AD=172p PS=137.2u PD=137.2u
* device instance $2 r0 *1 -759.1,-238.7 PMOS
XM$2 iB iB VB4 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $3 r0 *1 -748.1,-238.7 PMOS
XM$3 VB4 VB4 VDD VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $4 r0 *1 -737.1,-238.7 PMOS
XM$4 VDD VB4 \$1 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $5 r0 *1 -726.1,-238.7 PMOS
XM$5 \$1 iB VB2 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $27 r0 *1 -363.1,-238.7 PMOS
XM$27 VDD VDD D_D VDD PMOS L=8u W=80u AS=172p AD=172p PS=137.2u PD=137.2u
* device instance $28 r0 *1 -352.1,-238.7 PMOS
XM$28 D_D D_D \$62 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $29 r0 *1 -341.1,-238.7 PMOS
XM$29 \$62 \$62 VDD VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $30 r0 *1 -330.1,-238.7 PMOS
XM$30 VDD \$62 \$2 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $31 r0 *1 -319.1,-238.7 PMOS
XM$31 \$2 D_D OUT1 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $53 r0 *1 21.9,-218.7 PMOS
XM$53 VDD VDD VDD VDD PMOS L=8u W=240u AS=516p AD=516p PS=377.2u PD=377.2u
* device instance $54 r0 *1 32.9,-218.7 PMOS
XM$54 VDD VB4 \$3 VDD PMOS L=8u W=240u AS=360p AD=360p PS=252u PD=252u
* device instance $55 r0 *1 43.9,-218.7 PMOS
XM$55 \$3 iB D_D_OUT VDD PMOS L=8u W=240u AS=360p AD=360p PS=252u PD=252u
* device instance $58 r0 *1 76.9,-218.7 PMOS
XM$58 VDD iB VOUT VDD PMOS L=8u W=2400u AS=3600p AD=3600p PS=2520u PD=2520u
.ENDS OPAMP_PMOS_single$2

* cell OPAMP_NMOS_single$1
* pin 
* pin T_D,iB1
* pin OUT1
* pin 
* pin CCOUT
* pin 
* pin 
* pin 
* pin 
* pin VOUT
* pin 
* pin VIN_P
* pin VIN_N
* pin L_U_G,VB2
* pin L_D_G,VB1
* pin 
* pin VSS
.SUBCKT OPAMP_NMOS_single$1 \$1 T_D|iB1 OUT1 \$6 CCOUT \$12 \$14 \$15 \$17 VOUT
+ \$66 VIN_P VIN_N L_U_G|VB2 L_D_G|VB1 \$168 VSS
* device instance $1 r0 *1 -973.8,-214.7 NMOS
XM$1 VSS VSS OUT1 VSS NMOS L=8u W=168u AS=361.2p AD=252p PS=269.2u PD=180u
* device instance $2 r0 *1 -962.8,-214.7 NMOS
XM$2 OUT1 \$6 CCOUT VSS NMOS L=8u W=168u AS=252p AD=252p PS=180u PD=180u
* device instance $5 r0 *1 -929.8,-214.7 NMOS
XM$5 VSS OUT1 VOUT VSS NMOS L=8u W=1680u AS=2520p AD=2520p PS=1800u PD=1800u
* device instance $25 r0 *1 -709.8,-214.7 NMOS
XM$25 VSS \$1 \$1 VSS NMOS L=8u W=168u AS=252p AD=252p PS=180u PD=180u
* device instance $26 r0 *1 -698.8,-214.7 NMOS
XM$26 \$1 \$6 \$6 VSS NMOS L=8u W=168u AS=252p AD=252p PS=180u PD=180u
* device instance $29 r0 *1 -665.8,-214.7 NMOS
XM$29 VSS \$66 \$17 VSS NMOS L=8u W=84u AS=126p AD=126p PS=90u PD=90u
* device instance $30 r0 *1 -654.8,-214.7 NMOS
XM$30 \$17 VIN_P \$15 VSS NMOS L=8u W=672u AS=1008p AD=1008p PS=750u PD=750u
* device instance $32 r0 *1 -632.8,-214.7 NMOS
XM$32 \$17 VIN_N \$14 VSS NMOS L=8u W=672u AS=1008p AD=1008p PS=750u PD=750u
* device instance $37 r0 *1 -577.8,-214.7 NMOS
XM$37 \$14 VSS VSS VSS NMOS L=8u W=84u AS=126p AD=235.2p PS=90u PD=179.2u
* device instance $38 r0 *1 -555.8,-232.2 NMOS
XM$38 VSS VSS \$168 VSS NMOS L=8u W=28u AS=60.2p AD=60.2p PS=59.2u PD=59.2u
* device instance $39 r0 *1 -544.8,-232.2 NMOS
XM$39 \$168 \$12 \$14 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $42 r0 *1 -511.8,-232.2 NMOS
XM$42 \$15 \$12 OUT1 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $64 r0 *1 -258.8,-214.7 NMOS
XM$64 VSS VSS \$15 VSS NMOS L=8u W=84u AS=235.2p AD=126p PS=179.2u PD=90u
* device instance $72 r0 *1 -170.8,-214.7 NMOS
XM$72 \$17 VSS VSS VSS NMOS L=8u W=84u AS=126p AD=235.2p PS=90u PD=179.2u
* device instance $73 r0 *1 -148.8,-232.2 NMOS
XM$73 VSS VSS T_D|iB1 VSS NMOS L=8u W=28u AS=60.2p AD=60.2p PS=59.2u PD=59.2u
* device instance $74 r0 *1 -137.8,-232.2 NMOS
XM$74 T_D|iB1 L_U_G|VB2 \$105 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u
+ PD=120u
* device instance $75 r0 *1 -126.8,-232.2 NMOS
XM$75 \$105 L_D_G|VB1 VSS VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $76 r0 *1 -115.8,-232.2 NMOS
XM$76 VSS \$66 \$66 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
* device instance $77 r0 *1 -104.8,-232.2 NMOS
XM$77 \$66 \$12 \$12 VSS NMOS L=8u W=84u AS=126p AD=126p PS=120u PD=120u
.ENDS OPAMP_NMOS_single$1

* cell OPAMP_PMOS_single$1
* pin 
* pin VDD
* pin iB
* pin VB4
* pin VB2
* pin D_D
* pin OUT1
* pin VOUT
* pin D_D_OUT
.SUBCKT OPAMP_PMOS_single$1 \$3 VDD iB VB4 VB2 D_D OUT1 VOUT D_D_OUT
* device instance $1 r0 *1 -770.1,-238.7 PMOS
XM$1 VDD VDD iB VDD PMOS L=8u W=80u AS=172p AD=172p PS=137.2u PD=137.2u
* device instance $2 r0 *1 -759.1,-238.7 PMOS
XM$2 iB iB VB4 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $3 r0 *1 -748.1,-238.7 PMOS
XM$3 VB4 VB4 VDD VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $4 r0 *1 -737.1,-238.7 PMOS
XM$4 VDD VB4 \$1 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $5 r0 *1 -726.1,-238.7 PMOS
XM$5 \$1 iB VB2 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $27 r0 *1 -363.1,-238.7 PMOS
XM$27 VDD VDD D_D VDD PMOS L=8u W=80u AS=172p AD=172p PS=137.2u PD=137.2u
* device instance $28 r0 *1 -352.1,-238.7 PMOS
XM$28 D_D D_D \$62 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $29 r0 *1 -341.1,-238.7 PMOS
XM$29 \$62 \$62 VDD VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $30 r0 *1 -330.1,-238.7 PMOS
XM$30 VDD \$62 \$2 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $31 r0 *1 -319.1,-238.7 PMOS
XM$31 \$2 D_D OUT1 VDD PMOS L=8u W=240u AS=360p AD=360p PS=276u PD=276u
* device instance $53 r0 *1 21.9,-218.7 PMOS
XM$53 VDD VDD VDD VDD PMOS L=8u W=240u AS=516p AD=516p PS=377.2u PD=377.2u
* device instance $54 r0 *1 32.9,-218.7 PMOS
XM$54 VDD VB4 \$3 VDD PMOS L=8u W=240u AS=360p AD=360p PS=252u PD=252u
* device instance $55 r0 *1 43.9,-218.7 PMOS
XM$55 \$3 iB D_D_OUT VDD PMOS L=8u W=240u AS=360p AD=360p PS=252u PD=252u
* device instance $58 r0 *1 76.9,-218.7 PMOS
XM$58 VDD iB VOUT VDD PMOS L=8u W=2400u AS=3600p AD=3600p PS=2520u PD=2520u
.ENDS OPAMP_PMOS_single$1

* cell OSS_PCH_ESD
* pin PAD
* pin VDD
.SUBCKT OSS_PCH_ESD PAD VDD
* device instance $1 r0 *1 -65.5,0 PMOS
XM$1 PAD VDD VDD VDD PMOS L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_PCH_ESD

* cell OSS_NCH_ESD
* pin PAD
* pin VSS
.SUBCKT OSS_NCH_ESD PAD VSS
* device instance $1 r0 *1 -65.5,0 NMOSE
XM$1 PAD VSS VSS VSS NMOSE L=2u W=500u AS=3523.04p AD=3523.04p PS=689.36u
+ PD=689.36u
.ENDS OSS_NCH_ESD
